US05650428
The procedure described in Example 15 was repeated, except that (RS)-2-(benzyloxycarbonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy) propanamide (1.0 g) was hydrogenolyzed in the presence of 10% Pd-C, and then, reacted with 4-methylbenzenesulfonyl chloride (778 mg) to obtain (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-methylbenzenesulfonylamino)-3-(tetrahydropyran-2-yloxy)propanamide (540 mg).

reactant | (RS)-2-(benzyloxycarbonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy) propanamide | 1.0 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COC1OCCCC1 | C26H32N2O7
reactant | 4-methylbenzenesulfonyl chloride | 778 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
catalyst | Pd-C | [Pd] | Pd
product | (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-methylbenzenesulfonylamino)-3-(tetrahydropyran-2-yloxy)propanamide | 540 mg | C(C)OC(=O)CC1=CC=C(C=C1)NC(C(COC1OCCCC1)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C25H32N2O7S
